US07585885B2
5-Difluoromethoxy-N-methyl-N-propyl-isophthalamic acid methyl ester
Treat a solution containing crude 5-difluoromethoxy-isophthalic acid monomethyl ester (2.5 g, 10 mmol) in THF (20 mL) at room temperature with 1-hydroxybenzotriazole hydrate (1.62 g, 12 mmol), 1,3-dicyclohexylcarbodiimide (12 mL, 1 N, 12 mmol), and n-methylpropylamine (1.23 mL, 12 mmol). Stir at room temperature overnight, filter through a filtering agent, wash with 1:1 ethyl acetate:hexanes (50 mL). Concentrate the combined filtrates and purify (silica gel chromatography, eluting with 0:100 to 30:70 ethyl acetate:hexanes) to give the title compound as a solid (1.6 g, 53%).

reactant | 5-difluoromethoxy-isophthalic acid monomethyl ester | 10 mmol, 2.5 g | COC(C1=CC(C(=O)O)=CC(=C1)OC(F)F)=O | C10H8F2O5
reactant | 1-hydroxybenzotriazole hydrate | 12 mmol, 1.62 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1,3-dicyclohexylcarbodiimide | 12 mmol, 1 N, 12 mL | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | n-methylpropylamine | 12 mmol, 1.23 mL | CNCCC | C4H11N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-Difluoromethoxy-N-methyl-N-propyl-isophthalamic acid methyl ester | 1.6 g, 53% | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)OC(F)F)=O | C14H17F2NO4
